US04294960
A solution of ethyl 2-methoxyiminoacetoacetate (a mixture of syn and anti isomers) (34.6 g.) and t-butoxycarbonylhydrazine (26.4 g.) in ethanol (200 ml.) was stirred for 7.5 hours at ambient temperature and allowed to stand overnight to precipitate crystals. The crystals were collected by filtration, washed with ethanol and dried to give ethyl 2-methoxyimino-3-t-butoxycarbonylhydrazonobutyrate (a mixture of syn and anti isomers) (41.7 g.), mp 144° to 145° C.

reactant | ethyl 2-methoxyiminoacetoacetate | CON=C(C(=O)OCC)C(=O)C | C7H11NO4
reactant | t-butoxycarbonylhydrazine | 26.4 g | C(C)(C)(C)OC(=O)NN | C5H12N2O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 2-methoxyimino-3-t-butoxycarbonylhydrazonobutyrate | CON=C(C(=O)OCC)C(C)=NNC(=O)OC(C)(C)C | C12H21N3O5
